US08486962B2
To a solution of (4-nitro-phenyl)-pyridin-2-yl-amine (280 mg, 1.3 mmol) in ethyl acetate (10 ml) was added stannous chloride dihydrate (1.17 g, 5.2 mmol) and stirred overnight at room temperature. The reaction mixture was diluted with ethyl acetate and washed with 10% sodium hydroxide solution. The organic layer was separated, washed with brine, dried and evaporated to dryness. Purification by column chromatography using ethyl acetate/hexane (2:3) yielded N-pyridin-2-yl-benzene-1,4-diamine (80 mg, 33%).

reactant | (4-nitro-phenyl)-pyridin-2-yl-amine | 1.3 mmol, 280 mg | [N+](=O)([O-])C1=CC=C(C=C1)NC1=NC=CC=C1 | C11H9N3O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-pyridin-2-yl-benzene-1,4-diamine | 80 mg, 33% | N1=C(C=CC=C1)NC1=CC=C(C=C1)N | C11H11N3
